US04843062
Step 4. Preparation of N-formyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine
A solution of N-formyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester (12.86 g, 31.3 mmole) in trifluoroacetic acid (100 mL) was stirred at room temperature for 5 minutes. The reaction was diluted with water (700 mL) and the resultant precipitate was collected by suction filtration. The solid was washed with water (2×25 mL) and recrystallized in 2:1 hexane:chloroform to provide the product as white needles (5.09 g, 46%), m.p. 142°-144° C.

reactant | N-formyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester | 31.3 mmole, 12.86 g | C(=O)N(CC(=O)OC(C)(C)C)C(=O)C1=CC=CC2=C(C(=CC=C12)OC)C(F)(F)F | C20H20F3NO5
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 700 mL | O | H2O
product | N-formyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine | 5.09 g, 46% | C(=O)N(CC(=O)O)C(=O)C1=CC=CC2=C(C(=CC=C12)OC)C(F)(F)F | C16H12F3NO5
